US06599915B2
2-[4-(1H-Indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-2,3-dihydro[1,4]dioxino[2,3-f]quinoline
(2R)-2,3-Dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate (0.50 g, 1.34 mmole) and 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (0.72 g, 3.65 mmole) were combined in 60 mL of DMSO and heated at 75-80° C. under nitrogen for 6 hours. After cooling to room temperature, the mixture was partitioned between 400 mL each of ethyl acetate and saturated sodium bicarbonate solution. The organic phase was removed, washed with saturated brine, dried over magnesium sulfate and concentrated to an oil in vacuum. This was column chromatographed on silica gel using first ethyl acetate to elute impurities and then 3% methanol in ethyl acetate to elute 0.110 g of the product as a light yellow solid. This was recrystallized from ethanol to give 0.050 g of the (S)-enantiomer of the title compound as a light yellow solid hemihydrate (m.p. 217° C.).

reactant | (2R)-2,3-Dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate | 1.34 mmole, 0.50 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC=NC3=CC2)O1 | C19H17NO5S
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 3.65 mmole, 0.72 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
product | 2-[4-(1H-Indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-2,3-dihydro[1,4]dioxino[2,3-f]quinoline | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CC1COC=2C(=C3C=CC=NC3=CC2)O1 | C25H23N3O2
